US07462639B2
Cyclopropanecarboxylic acid[3-(5-isopropyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide
Cyclopropanecarboxylic acid[3-(5-isopropyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5-isopropyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (325 mg, 0.90 mmol) and cyclopropanecarbonyl chloride (92 μl, 0.99 mmol). The title compound was obtained as dark green powder (85 mg, 22%).

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-isopropyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.90 mmol, 325 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)C(C)C)=O)(C)C)N1 | C17H20N6O
reactant | cyclopropanecarbonyl chloride | 0.99 mmol, 92 μl | C1(CC1)C(=O)Cl | C4H5ClO
product | Cyclopropanecarboxylic acid[3-(5-isopropyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide | C(C)(C)N1C(C(C=2C=C3C(=CC12)N=C(N3)C3=NNC=C3NC(=O)C3CC3)(C)C)=O | C21H24N6O2
